US08106064B2
To a stirred solution of carbon tetrachloride (270 mL), was added 3,5-dimethylbenzonitrile (37 g, 0.282M), N-bromo succinimide (NBS) (50 g, 0.282 M), and benzoyl peroxide (3.4 g, 14 mmol). The mixture was then refluxed for 3 hr. under a light of 500 W tungsten lamp. After cooling to room temperature, the mixture was filtered, evaporated, and the residue was purified by silica gel column chromatography (eluent, ether:hexane (1:10)) to give 48 g (81%) of 3-(bromomethyl)-5-methylbenzonitrile as a white solid. m.p. 80-81° C. 1H NMR (200 MHz, CDCl3) δ 2.39 (3H, s), 4.43 (2H, s), 7.39 (1H, s), 7.43 (1H, s), 7.48 (1H, s).

reactant | 3,5-dimethylbenzonitrile | 0.282M, 37 g | CC=1C=C(C#N)C=C(C1)C | C9H9N
reactant | N-bromo succinimide | 0.282 M, 50 g | BrN1C(CCC1=O)=O | C4H4BrNO2
catalyst | tungsten | [W] | W
catalyst | benzoyl peroxide | 14 mmol, 3.4 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 270 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-(bromomethyl)-5-methylbenzonitrile | 48 g, 81% | BrCC=1C=C(C#N)C=C(C1)C | C9H8BrN
